US05922646
A mixture of 118.8 g of 2-amino-4-nitro-benzoic acid, 1000 ml of methanol and 120 ml of concentrated sulfuric acid is heated at the boiling point for 16 hours. The mixture is concentrated under reduced pressure, the residue is taken up in ethyl acetate and the mixture is washed with saturated NaHCO3 solution. After drying over Na2SO4, the organic phase is concentrated. 114.2 g (89%) of methyl 2-amino-4-nitro-benzoate are thus obtained with a melting point (m.p.) of 156-158° C.

reactant | 2-amino-4-nitro-benzoic acid | 118.8 g | NC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H6N2O4
reactant | sulfuric acid | 120 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 1000 ml | CO | CH4O
product | methyl 2-amino-4-nitro-benzoate | 114.2 g, 89% | NC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C8H8N2O4
